US05576322
2-(4-Ethoxycarbonylpiperidino)-4-(3-chloro-4-methoxybenzyl)amino-6-cyanoquinazoline
3.5 g of ethyl isonipecotate, 2.25 g of triethylamine and 30 ml of 2-propanol were added to 1 g of 2-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanoquinazoline. The obtained mixture was refluxed for 30 minutes and cooled to room temperature. The crystals thus precipitated were recovered by filtration and washed with water and ethanol successively to give 1.13 g of the title compound.

reactant | ethyl isonipecotate | 3.5 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 2.25 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanoquinazoline | 1 g | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C#N | C17H12Cl2N4O
solvent | 2-propanol | 30 ml | CC(C)O | C3H8O
product | 2-(4-Ethoxycarbonylpiperidino)-4-(3-chloro-4-methoxybenzyl)amino-6-cyanoquinazoline | 1.13 g, yield(%); 85 | C(C)OC(=O)C1CCN(CC1)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C#N | C25H26ClN5O3
